US08471005B2
Into a 8-dram vial, 5-Cyano-5-(3-methoxy-4-nitro-phenyl)-2-oxo-cyclohexanecarboxylic acid methyl ester (2.00 g, 6.02 mmol), Sodium chloride (1.00 g, 17.1 mmol), Water (1.00 mL, 55.5 mmol) and Dimethyl sulfoxide (5.00 g, 64.0 mmol) were added. The reaction mixture was heated at 165° C. for 6 hours. HPLC suggested no SM. The reaction was partitioned with water and EtOAc. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The solvent was removed under vacuum. The reaction mixture was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 10% methanol). The collected fractions afforded 1-(3-Methoxy-4-nitro-phenyl)-4-oxo-cyclohexanecarbonitrile a white solid (0.80 g, 48%).

reactant | 5-Cyano-5-(3-methoxy-4-nitro-phenyl)-2-oxo-cyclohexanecarboxylic acid methyl ester | 6.02 mmol, 2.00 g | COC(=O)C1C(CCC(C1)(C1=CC(=C(C=C1)[N+](=O)[O-])OC)C#N)=O | C16H16N2O6
reactant | Sodium chloride | 17.1 mmol, 1.00 g | [Cl-].[Na+]
reactant | Water | 55.5 mmol, 1.00 mL | O | H2O
reactant | Dimethyl sulfoxide | 64.0 mmol, 5.00 g | CS(=O)C | C2H6OS
product | 1-(3-Methoxy-4-nitro-phenyl)-4-oxo-cyclohexanecarbonitrile | COC=1C=C(C=CC1[N+](=O)[O-])C1(CCC(CC1)=O)C#N | C14H14N2O4
